Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Hypoglycemia, Alcohol intoxication, Suicidality
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is a ___ F with a history of HCV, HIV, and 
multiple prior admissions for suicidal ideation who presented to 
the ___ ED this morning after being found down, somnolent and 
was ultimately found to have an EtOH level of 117 and initial 
FSBG 42.  She was being observed in the ED but hypoglycemia did 
not readily improve.  She is being transferred to the MICU for 
close monitoring and treatment of refractory hypoglyemia.

Per the patient she reports trying to drink "as much as 
possible" to try and kill herself.  She is not sure if she took 
anything else.  She does not recall any other details about last 
evening.

In the ED, initial vitals were 98.0 84 110/65 12 100% RA 

In the ED, she received:
- 4 amps of dextrose
- Started on D5 NS gtt
- Diazepam 10mg PO @ 10:45a
- Octreotide 100mcg
- Folic acid 1mg IV x 1
- Thiamine 100mg IV x 1
- Multivitamin

Labs/imaging were significant for:
- Urine tox: positive for cocaine and benzodiazepines
- Serum tox: positive for benzodiazepines, EtOH level of 117
- VBG ___ with AG = 18, lactate 3
- CT head without acute intracranial abnormality on prelim read

Vitals prior to transfer were T 95.6 HR 89 BP 106/65 RR 16 SpO2 
100% 

On arrival to the MICU, the patient reports no current 
complaints.

Review of systems:  
(+) Per HPI, headache

 
Past Medical History:
PAST MEDICAL HISTORY:
- HIV (dx ___: Previously on ARV
- Hepatitis C: Diagnosed ___, genotype 1
- Truamatic brain injury (1980s) - pt reports she was 
"assaulted" and subsequently received 300 stitches, was 
hospitalized x 2wks, and
underwent rehab at ___ she denies LOC or persistent
deficits but receives SSDI for this injury

PSYCHIATRIC HISTORY: (per OMR)
Dx/Sxs- Per pt, depression, panic attacks, polysubstance (ETOH,
crack, heroin) abuse/dependence.
Hospitalizations- Per pt, multiple hospitalizations at ___
(last, ___ and ___ (last, 5+ yrs ago). Per OMR, multiple
(>20) detox admissions. No record of treatment at ___ in
Partners system.
SA/SIB- Per pt, OD on Ultram "probably to hurt [her]self" ___
ago)
Psychiatrist- None
Therapist- None
Medication Trials- Amitriptyline

 
Social History:
___
Family History:
Denies h/o psychiatric illness, suicide attempts, addictions.
 
Physical Exam:
ADMISSION EXAM:
Vitals- 
Tmax: 37.3 °C (99.2 °F)
Tcurrent: 37.3 °C (99.2 °F)
HR: 89 (87 - 89) bpm
BP: 104/51(62) {104/51(62) - 133/70(80)} mmHg
RR: 14 (14 - 20) insp/min
SpO2: 100% 
Heart rhythm: SR (Sinus Rhythm)
General- Well appearing, no apparent distress
HEENT- Tattoo on right neck.  Pupils 4mm, reactive.
Neck- No JVD
CV- RRR, III/VI SEM heard best at ___
Lungs- CTAB
Abdomen- Soft, nontender.  Specifically no tenderness of RUQ.  
No stigmata of chronic liver disease.
GU- No foley
Ext- Warm, well perfused.  No edema.
Neuro- CN II-XII grossly intact.  No tremor.

DISCHARGE PHYSICAL EXAM
Vitals: T98.3 HR83 BP106/73 RR18 100%RA
General- Well appearing, no apparent distress  
HEENT- Tattoo on right neck. Pupils 4mm, reactive.  
Neck- No JVD  
CV- RRR, III/VI SEM heard best at ___  
Lungs- CTAB  
Abdomen- Soft, nontender. Specifically no tenderness of RUQ. No 
stigmata of chronic liver disease.  
GU- No foley  
Ext- Warm, well perfused. No edema.  
Neuro- CN II-XII grossly intact. No tremor.  

 
Pertinent Results:
ADMISSION LABS:

___ 03:36AM BLOOD WBC-2.4* RBC-3.64* Hgb-7.7* Hct-27.6* 
MCV-76* MCH-21.1* MCHC-27.8* RDW-18.5* Plt ___
___ 03:36AM BLOOD Glucose-107* UreaN-15 Creat-0.6 Na-136 
K-3.4 Cl-107 HCO3-21* AnGap-11
___ 07:35AM BLOOD ALT-49* AST-105* CK(CPK)-224* AlkPhos-69 
TotBili-0.2
___ 03:36AM BLOOD Calcium-7.8* Phos-2.6*# Mg-1.8
___ 07:35AM BLOOD Osmolal-321*
___ 07:35AM BLOOD ASA-NEG ___ Acetmnp-NEG 
Bnzodzp-POS Barbitr-NEG Tricycl-NEG
___ 09:05AM BLOOD ___ Temp-36.7 pO2-47* pCO2-36 
pH-7.26* calTCO2-17* Base XS--9 Intubat-NOT INTUBA
___ 11:10AM BLOOD Glucose-51* Lactate-2.1*

HeaD CT:
IMPRESSION: 
1. No acute intracranial abnormality. 
2. Prominence of the posterior nasopharyngeal soft tissues is 
seen and 
correlation with direct visualization is recommended. 
3. Encephalomalacia in the left parietal lobe with overlying 
bony defect, 
possibly from prior trauma. 

DISCHARGE LABS
___ 03:36AM BLOOD WBC-2.4* RBC-3.64* Hgb-7.7* Hct-27.6* 
MCV-76* MCH-21.1* MCHC-27.8* RDW-18.5* Plt ___
___ 06:35AM BLOOD Glucose-97 UreaN-15 Creat-0.5 Na-139 
K-3.7 Cl-109* HCO3-23 AnGap-11
___ 07:35AM BLOOD ALT-49* AST-105* CK(CPK)-224* AlkPhos-69 
TotBili-0.2
___ 06:35AM BLOOD Calcium-8.2* Phos-2.7 Mg-1.4*
 
Brief Hospital Course:
___ F with HCV, HIV presenting after being found down with +EtOH, 
cocaine, benzodiazepines and transferred to the MICU for 
hypoglycemia, now resolving.

1) HYPOGLYCEMIA: Suspect related to poor PO intake. Hypoglycemia 
resolved with eating and patient has remained euglycemic for the 
remainder of her hospital stay.

2) SUICIDALITY: Patient has had prior admissions to psychiatry 
for SI and has active SI currently. On ___. Psych was 
following in house. 1:1 sitter at all times. Patient transferred 
to ___ for active suicidality.

3) ETOH WITHDRAWAL: No active etoh withdrawal during hospital 
stay. CIWA scale but not scoring.

4) HEPATITIS C INFECTION: Chronic. Elevated transaminases 
currently, but in classic 2:1 pattern for EtOH and given recent 
ingestion history, this is more likely the explanation.
- Follow-up as outpatient issue

5) HIV: Will bear in mind as transitional issue to consider 
re-initiating ARVs

CODE STATUS: Unable to assess given active suicidality

# Transitional issues
- New murmur work up  
- chronic leukopenia  
- reinitiating HIV treatment and consideration for initiation of 
HCV treatment  
- Nystagmus work-up as outpatient  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. Bisacodyl 10 mg PO DAILY:PRN constipation 
2. Docusate Sodium 100 mg PO BID 
3. FoLIC Acid 1 mg PO DAILY 
4. Multivitamins W/minerals 1 TAB PO DAILY 
5. Polyethylene Glycol 17 g PO 1X Duration: 1 Dose 
6. Senna 8.6 mg PO BID:PRN Constipation 
7. Thiamine 100 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis: hypoglycemia secondary to poor po intake, 
suicidal ideation, severe depression

 
Discharge Condition:
Flat affect, active suicidal ideation
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
It was a pleasure to take care of you at ___. You were 
admitted to the ICU for low blood sugars that you had when you 
arrived. You have not had any further blood sugars since. They 
were probably caused by not eating enough while drinking 
excessive alcohol. You were transferred back to the general 
floor and monitored. You continue to have suicidal thoughts and 
will therefore be going to ___ when you leave ___. We 
wish you all the best in your recovery.

Your ___ tem.
 
Followup Instructions:
___